US05459142
To a solution of 7.99 g of 5-ethyl-3-isobutyl-6-methoxycarbonyl-1,2-dihydropyrazin-2-one 4-oxide in ml of methanol was added 63 ml of 2N-sodium hydroxide aqueous solution, and the mixture was stirred at room temperature for 2 hours. The solvent was removed by distillation under reduced pressure, and the resulting residue was dissolved in water, then under ice-cooling condition with stirring, the solution was acidified by adding 11 ml of concentrated hydrochloric acid. The crystals thus precipitated were collected by filtration, and were washed with water, then recrystallized from dichloromethanemethanol to obtain 6.24 g of 5-ethyl-3-isobutyl-1,2-dihydropyrazin-2-one-6-carboxylic acid 4-oxide.

reactant | 5-ethyl-3-isobutyl-6-methoxycarbonyl-1,2-dihydropyrazin-2-one 4-oxide | 7.99 g | C(C)C=1[N+](=C(C(NC1C(=O)OC)=O)CC(C)C)[O-] | C12H18N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 5-ethyl-3-isobutyl-1,2-dihydropyrazin-2-one-6-carboxylic acid 4-oxide | 6.24 g | C(C)C=1[N+](=C(C(NC1C(=O)O)=O)CC(C)C)[O-] | C11H16N2O4
